US07153854B2
To a solution of 4-[(1-amino-5-ethyl-1H-pyrrol-2-yl)carbonyl]benzonitrile (100 mg) in toluene (1 mL) were added 1-(4-methoxyphenyl)acetone (103 mg) and p-toluene-sulfonic acid monohydrate (16 mg) at ambient temperature. The reaction mixture was heated at 80° C. for 3 hours. The mixture was evaporated in vacuo. The residue was purified by flash silica gel column chromatography eluting with hexane-ethyl acetate=20-1 and 15-1 to give 4-[7-ethyl-3-(4-methoxyphenyl)-2-methylpyrrolo[1,2-b]pyridazin-4-yl]benzonitrile (31 mg, 20.2%) as an yellow solid.

reactant | 4-[(1-amino-5-ethyl-1H-pyrrol-2-yl)carbonyl]benzonitrile | 100 mg | NN1C(=CC=C1CC)C(=O)C1=CC=C(C#N)C=C1 | C14H13N3O
reactant | 1-(4-methoxyphenyl)acetone | 103 mg | COC1=CC=C(C=C1)CC(=O)C | C10H12O2
reactant | p-toluene-sulfonic acid monohydrate | 16 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[7-ethyl-3-(4-methoxyphenyl)-2-methylpyrrolo[1,2-b]pyridazin-4-yl]benzonitrile | 31 mg, 20.2% | C(C)C1=CC=C2N1N=C(C(=C2C2=CC=C(C#N)C=C2)C2=CC=C(C=C2)OC)C | C24H21N3O
